US05559113
4-[2-(4-Ethoxycarbonylphenoxy)ethyl]-1H-imidazole
1.49 g (9 mmol) of ethyl 4-hydroxybenzoate, 251 mg (1.5 mmol) of 4-(2-chloroethyl)-1H-imidazole hydrochloride, 500 g (3.6 mmol) of potassium carbonate and sodium iodide (catalyst) are stirred at 80° C. for 4 days in 5 ml of dimethylformamide. The reaction mixture is cooled and then filtered. The filtrate is evaporated under reduced pressure to give an oily residue. The excess ethyl 4-hydroxybenzoate is extracted with ether at pH=1. The aqueous solution is evaporated under reduced pressure to give the title compound. The latter is purified by preparative high performance chromatography and converted to the oxalate which, after crystallization from an isopropanol/ether mixture, melts at 160°-164° C.

reactant | ethyl 4-hydroxybenzoate | 9 mmol, 1.49 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | 4-(2-chloroethyl)-1H-imidazole hydrochloride | 1.5 mmol, 251 mg | Cl.ClCCC=1N=CNC1
reactant | potassium carbonate | 3.6 mmol, 500 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-[2-(4-Ethoxycarbonylphenoxy)ethyl]-1H-imidazole | C(C)OC(=O)C1=CC=C(OCCC=2N=CNC2)C=C1 | C14H16N2O3
